US07687627B2
(S)-N-{3-[4-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-thioacetamide
The title compound was prepared by reacting (S)-N-{3-[4-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (1.0 mmol, prepared as per procedure described in U.S. Pat. No. 5,668,286) with Lawesson's reagent (1.1 mmol), in dioxane (10 ml) at a temperature 65° C. for 12 hours followed by silica gel column chromatographic purification in 55% yield. Mp; 141-143° C., Mass m/z 410.1 (ES+, 100%) for C19H24FN3O4S.

reactant | (S)-N-{3-[4-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | O1CCOC12CCN(CC2)C2=C(C=C(C=C2)N2C(O[C@H](C2)CNC(C)=O)=O)F | C19H24FN3O5
reactant | Lawesson's reagent | 1.1 mmol | COC=1C=CC(=CC1)P2(=S)SP(=S)(S2)C=3C=CC(=CC3)OC | C14H14O2P2S4
solvent | dioxane | 10 ml | O1CCOCC1 | C4H8O2
product | (S)-N-{3-[4-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-3-fluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-thioacetamide | 55% yield | O1CCOC12CCN(CC2)C2=C(C=C(C=C2)N2C(O[C@H](C2)CNC(C)=S)=O)F | C19H24FN3O4S
